US08895545B2
c) (E)-3-(3,3-Dimethyl-2,3-dihydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)-N-methyl-N-(3-methylbenzofuran-2-ylmethyl)acrylamide
A suspension of 7-bromo-3,3-dimethyl-2,3-dihydro-1H-pyrido[2,3-e][1,4]diazepine (255 mg, 1.00 mmol) and N-methyl-N-(3-methylbenzofuran-2-ylmethyl)acrylamide (0.28 g, 1.2 mmol) in propionitrile (5.0 mL) and DMF (1.3 mL) was de-oxygenated with Ar for 10 min. The mixture was treated with (i-Pr)2EtN (0.38 mL, 2.2 mmol) and was de-oxygenated with Ar for 5 min. Pd(OAc)2 (22 mg, 0.10 mmol) and P(o-tol)3 (63 mg, 0.21 mmol) were added simultaneously, and the mixture was de-oxygenated a third time for 5 min. The mixture was heated to reflux overnight, then allowed to cool. The mixture was diluted with EtOAc (50 mL) and washed with H2O (25 mL). The organic layer was dried over Na2SO4, filtered and concentrated to an orange oil. Purification by flash column chromatography (silica gel, CH2Cl2/MeOH, 96:4) followed by trituration with Et2O gave the title compound (85 mg, 21%) as a yellow powder and as a mixture of amide rotamers: 1H NMR (300 MHz, DMSO-d6) δ8.44-8.43 (m, 1H), 8.25 (s, 1H), 8.19-8.15 (m, 1H), 8.06 (s, 1H), 7.58-7.08 (m, 6H), 4.99-4.79 (m, 2H), 3.18-2.92 (m, 5H), 2.27 (s, 3H), 1.16 (s, 6H); MS (ESI) m/e 403 (M+H)+.

reactant | 7-bromo-3,3-dimethyl-2,3-dihydro-1H-pyrido[2,3-e][1,4]diazepine | 1.00 mmol, 255 mg | BrC1=CC2=C(NCC(N=C2)(C)C)N=C1 | C10H12BrN3
reactant | N-methyl-N-(3-methylbenzofuran-2-ylmethyl)acrylamide | 1.2 mmol, 0.28 g | CN(C(C=C)=O)CC=1OC2=C(C1C)C=CC=C2 | C14H15NO2
reactant | (i-Pr)2EtN | 2.2 mmol, 0.38 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | P(o-tol)3 | 0.21 mmol, 63 mg | CC1=C(C=CC=C1)P(C2=C(C=CC=C2)C)C3=C(C=CC=C3)C | C21H21P
solvent | propionitrile | 5.0 mL | C(CC)#N | C3H5N
solvent | DMF | 1.3 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
catalyst | Pd(OAc)2 | 0.10 mmol, 22 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | (E)-3-(3,3-Dimethyl-2,3-dihydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)-N-methyl-N-(3-methylbenzofuran-2-ylmethyl)acrylamide | 85 mg, 21% | CC1(N=CC2=C(NC1)N=CC(=C2)/C=C/C(=O)N(CC=2OC1=C(C2C)C=CC=C1)C)C | C24H26N4O2
